US08491868B2
To a solution of 1-(4-(3-fluoropropyl)phenyl)piperazine hydrochloride (50 mg, 0.22 mmol) and diisopropylethylamine (82 μL, 0.47 mmol) in DMF (1 mL) was added 1H-pyrazole-1-carboximidamide hydrochloride (36 mg, 0.25 mmol). After stirring at room temperature for 9 h, the reaction mixture was purified via HPLC using a Phenomenex Luna C-18 (2) column (10μ, 250×21.2 mm, gradient method 15-55% B over 40 min., where B=90% ACN in water using 0.1% TFA as a modifier and A=water using 0.1% TFA as a modifier) with a flow rate of 20 mL/min afforded 4-(4-(3-fluoropropyl)phenyl)piperazine-1-carboximidamide as a white solid (36 mg, 42% yield). 1H NMR (300 MHz, DMSO-d6): δ 7.53 (br s, 3H), 7.09 (d, 2H, J=8.6 Hz), 6.92 (d, 2H, J=8.6 Hz), 4.50 (t, 1H, J=6.0 Hz), 4.34 (t, 1H, J=6.0 Hz), 3.57 (dd, 4H, J=5.3, 4.8 Hz), 3.17 (dd, 4H, J=5.2, 4.9 Hz), 2.58 (dd, 2H, J=8.1, 6.4 Hz), 1.98-1.80 (m, 2H); 19F NMR (282.4 MHz, DMSO-d6): δ−217.97 (m, 1F); 13C NMR (150 MHz, DMSO-d6): δ 156.1, 148.5, 132.1, 128.8, 116.2, 83.6 (82.5), 47.8, 44.8, 31.7 (31.6), 29.7 (29.6); HRMS calcd. for C14H21FN4: 265.18230 found 265.18240.

reactant | 1-(4-(3-fluoropropyl)phenyl)piperazine hydrochloride | 0.22 mmol, 50 mg | Cl.FCCCC1=CC=C(C=C1)N1CCNCC1
reactant | diisopropylethylamine | 0.47 mmol, 82 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1H-pyrazole-1-carboximidamide hydrochloride | 0.25 mmol, 36 mg | Cl.N1(N=CC=C1)C(N)=N
reactant | ACN | C(C)#N | C2H3N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-(3-fluoropropyl)phenyl)piperazine-1-carboximidamide | 36 mg, 42% yield | FCCCC1=CC=C(C=C1)N1CCN(CC1)C(N)=N | C14H21FN4
